US07868026B2
N-butyl-2-[(pyridin-3-ylamino)sulfonyl]benzamide
The title compound was prepared according to procedures described above, using methyl 2-[(pyridin-3-ylamino)sulfonyl]benzoate and n-butylamine. The title compound was further purified by dissolving 2.0 g in ethyl acetate (10 mL). Hexane was then added dropwise to the solution until it became cloudy. A few drops of ethyl acetate were then added to obtain a clear solution. The resulting solution was left at rt for approximately 48 h. The resulting solids were collected, washed with 20% ethyl acetate/hexane (3×150 mL), and dried under high vacuum overnight at rt to afford the title compound as a crystalline solid (1.64 g, 82%). 1H NMR (400 MHz, DMSO-D6) δ 9.90-10.00 (m, 1H) 8.73 (t, 1H) 8.28-8.37 (m, 2H) 7.71-7.76 (m, 1H) 7.61-7.70 (m, 2H) 7.49-7.57 (m, 2H) 7.35-7.44 (m, 1H) 3.25 (q, 2H) 1.51-1.54 (m, 2H) 1.29-1.40 (m, 2H) 0.90 (t, 3H).

reactant | methyl 2-[(pyridin-3-ylamino)sulfonyl]benzoate | N1=CC(=CC=C1)NS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C13H12N2O4S
reactant | n-butylamine | C(CCC)N | C4H11N
product | N-butyl-2-[(pyridin-3-ylamino)sulfonyl]benzamide | 1.64 g, 82% | C(CCC)NC(C1=C(C=CC=C1)S(=O)(=O)NC=1C=NC=CC1)=O | C16H19N3O3S
